### PR TITLE
[Merged by Bors] - feat: prove invtSubmoduleToLieIdeal_top

### PR DESCRIPTION
**Pull request by jano-wol**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 1]
```diff
@@ -286,4 +286,28 @@ lemma mem_corootSpace' {x : H} :
...
+  by_contra h_contra
+  apply h_contra (eq_top_iff.mpr _)
+  rw [← LieModule.iSup_genWeightSpace_eq_top']
+  simp only [iSup_le_iff]
+  intro α
+  by_cases hα : α.IsZero
+  · simp [hα]
+  · apply le_sup_of_le_right
+    apply le_iSup_of_le ⟨α, (Finset.mem_filter_univ α).mpr hα⟩
+    exact le_rfl
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean]:
```suggestion
lemma cartan_sup_iSup_rootSpace_eq_top :
    H.toLieSubmodule ⊔ ⨆ α : H.root, rootSpace H α = ⊤ := by
  rw [eq_top_iff, ← LieModule.iSup_genWeightSpace_eq_top', iSup_le_iff]
  intro α
  by_cases hα : α.IsZero
  · simp [hα]
  · exact le_sup_of_le_right <| le_iSup_of_le ⟨α, by simpa⟩ (le_refl _)
```

**Review by ocfnash — COMMENTED** [review]
Just a tiny golfing suggestion for now; I will return within a few days for the rest. Thanks!

File: Mathlib/Algebra/Lie/Weights/IsSimple.lean [hunk 2]
```diff
@@ -260,6 +260,53 @@ noncomputable def invtSubmoduleToLieIdeal (q : Submodule K (Dual K H))
       simp only [add_lie, Submodule.carrier_eq_coe, SetLike.mem_coe] at ih₁ ih₂ ⊢
       exact add_mem ih₁ ih₂
 
+lemma coe_invtSubmoduleToLieIdeal_eq_iSup (q : Submodule K (Dual K H))
+    (hq : ∀ i, q ∈ End.invtSubmodule ((rootSystem H).reflection i)) :
+    (invtSubmoduleToLieIdeal q (by exact hq) : Submodule K L) =
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/IsSimple.lean]: There are two _independent_ changes here:

1. Fix the `by exact` issue by adding `.toLinearMap` to help elaboration
2. Add `.toSubmodule` rather than a coercion to avoid an indirect coercion (`LieIdeal` to `LieSubalgebra` to `Submodule`)
```suggestion
    (hq : ∀ i, q ∈ End.invtSubmodule ((rootSystem H).reflection i).toLinearMap) :
    (invtSubmoduleToLieIdeal q hq).toSubmodule =
```

File: Mathlib/Algebra/Lie/Weights/Cartan.lean [hunk 3]
```diff
@@ -286,4 +286,23 @@ lemma mem_corootSpace' {x : H} :
...
+/-- The collection of roots as a `Finset`. -/
+noncomputable abbrev _root_.LieSubalgebra.root : Finset (Weight K H L) := {α | α.IsNonZero}
+
+lemma cartan_sup_iSup_rootSpace_eq_top :
+    H.toLieSubmodule ⊔ ⨆ α : H.root, rootSpace H α = ⊤ := by
+  rw [eq_top_iff, ← LieModule.iSup_genWeightSpace_eq_top', iSup_le_iff]
+  intro α
+  by_cases hα : α.IsZero
+  · simp [hα]
+  · exact le_sup_of_le_right <| le_iSup_of_le ⟨α, by simpa⟩ (le_refl _)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/Cartan.lean]: This lemma becomes more difficult to use if we include the bundled finiteness expressed as `H.root`. Instead I suggest:
```suggestion
lemma cartan_sup_iSup_rootSpace_eq_top :
    H.toLieSubmodule ⊔ ⨆ α : Weight K H L, ⨆ (_ : α.IsNonZero), rootSpace H α = ⊤ := by
  rw [eq_top_iff, ← LieModule.iSup_genWeightSpace_eq_top', iSup_le_iff]
  intro α
  by_cases hα : α.IsZero
  · simp [hα]
  · exact le_sup_of_le_right <| le_iSup₂_of_le α hα (le_refl _)
```

File: Mathlib/Algebra/Lie/Weights/IsSimple.lean [hunk 4]
```diff
@@ -260,6 +260,53 @@ noncomputable def invtSubmoduleToLieIdeal (q : Submodule K (Dual K H))
...
+    (le_of_le_of_eq (le_sup_of_le_left le_sup_left) (sl2SubmoduleOfRoot_eq_sup α _).symm).trans
+      (le_iSup_of_le ⟨α, trivial, (Finset.mem_filter.mp hα).2⟩ le_rfl)
+  have h₃ : (H.toLieSubmodule ⊔ ⨆ α : H.root, rootSpace H α : Submodule K L) ≤ I :=
+    sup_le h₁ (iSup_le h₂)
+  have h₄ : (H.toLieSubmodule ⊔ ⨆ α : H.root, rootSpace H α : Submodule K L) = ⊤ := by
+    simpa using congrArg
+      (↑· : LieSubmodule K H L → Submodule K L) (cartan_sup_iSup_rootSpace_eq_top H)
+  rw [h₄, top_le_iff] at h₃
+  exact eq_top_iff.mpr fun x _ => by
+    change x ∈ (I : Submodule K L); rw [h₃]; exact Submodule.mem_top
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Weights/IsSimple.lean]: I think the right way to break this result down is as follows:
```suggestion
-- This should probably be somewhere in the file `Algebra.Lie.Weights.RootSystem`
open LieSubmodule in
@[simp]
lemma biSup_corootSpace_eq_top :
    ⨆ α : Weight K H L, ⨆ (_ : α.IsNonZero), corootSpace α = ⊤ := by
  simp only [← toSubmodule_inj, top_toSubmodule, iSup_toSubmodule,
    ← RootPairing.IsRootSystem.span_coroot_eq_top (P := rootSystem H),
    coe_corootSpace_eq_span_singleton, Submodule.iSup_span]
  congr
  ext α
  simp [eq_comm]

-- This should probably be below `bisup_corootSpace_eq_top`
@[simp]
lemma biSup_corootSubmodule_eq_cartan :
    ⨆ α : Weight K H L, ⨆ (_ : α.IsNonZero), corootSubmodule α = H.toLieSubmodule := by
  suffices ⨆ α : Weight K H L, ⨆ (_ : α.IsNonZero), corootSpace α = ⊤ from
    le_antisymm (by simp) (by simp [← LieSubmodule.map_iSup, this])
  simp

open LieSubmodule in
@[simp] lemma invtSubmoduleToLieIdeal_top :
    invtSubmoduleToLieIdeal (⊤ : Submodule K (Module.Dual K H)) (by simp) = ⊤ := by
  simp_rw [← toSubmodule_inj, coe_invtSubmoduleToLieIdeal_eq_iSup, iSup_toSubmodule,
    top_toSubmodule, iSup_toSubmodule_eq_top, eq_top_iff, ← cartan_sup_iSup_rootSpace_eq_top H,
    iSup_subtype, Submodule.mem_top, true_and, sup_le_iff, iSup_le_iff, sl2SubmoduleOfRoot_eq_sup]
  refine ⟨?_, fun α hα ↦ le_iSup₂_of_le α hα <| le_sup_of_le_left <| le_sup_of_le_left <| le_refl _⟩
  suffices H.toLieSubmodule ≤ ⨆ α : Weight K H L, ⨆ (_ : α.IsNonZero), corootSubmodule α from
    this.trans <| iSup₂_mono fun α hα ↦ le_sup_right
  simp
```
My guiding principle when writing the above was:

1. Prefer sublemmas that are valuable and reusable in their own right.
2. Try to use the operations that operate at the level of lattices (of `LieSubmodule`s or `Submodule`s) rather than falling back to working with individual elements. If necessary add missing lemmas to enable this.
